Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
diltiazem / lisinopril
 
Attending: ___
 
Chief Complaint:
SOB, weight gain, peripheral edema
 
Major Surgical or Invasive Procedure:
Pulmonary Vein Isolation with Ablation: ___

 
History of Present Illness:
Mr. ___ is a ___ year old man with h/o persistent AF (on
rivaroxaban), HTN and OSA who was transferred to ___ from
___ where he presented with SOB, chest tightness,
and ___ edema and was found to have AF with RVR (rates 130-150s)
and c/f new CHF exacerbation.

At baseline he lives in ___ with his wife. He follows with
Dr. ___ Dr. ___ AF ___. He went to his house in
___ on ___ for the week on vacation and was in his
usual state of health until 3 days ago (___) when he noticed
onset of dyspnea exacerbated by lying supine. He also noted
worsening ___ edema and abdominal girth with about 10 lbs weight
gain. (Of note he has baseline edema in his left leg post left
knee replacement in ___ and left hip replacement in ___. He
did not have any chest pain or palpitations during this time. On
___ he continued to be orthopneic and had to sit in 
a
chair in order to fall asleep, so he presented to ED at 
___.

In the ___ he was found to be in AF with RVR and volume
overloaded on exam. He received IV metoprolol and diltiazem GTT
complicated by hypotension requiring 500cc IVF and dilt was 
dc'd.
He also received lasix 40mg IV x1 given c/f CHF exacerbation. He
was transferred to ___ for further mgmt. 

ED course: At ___ he wtarted on metoprolol tart 12.5 q6h,
increased to 25 mg q6h. Received IV Lasix 40 mg x 3. Received
home dose of rivaroxaban. Seen by cards, okay with rates in
130s-150s as hemodynamically stable.

Initial VS: T98.4 HR 120 BP 117/70 RR18 SpO2 93% on RA
Exam: A and O X 3. Tachycardic, irregularly irregular rhythm.
Bibasilar rales. Pitting edema to b/l knees, warm. 
EKG:  Irregularly irregular
Labs notable for: 
- proBNP 1827
Consults: Cardiology

Patient was given: 
___ 01:12 PO/NG Metoprolol Tartrate 12.5 mg 
___ 01:40 IV Furosemide 40 mg  
___ 01:40 PO/NG Rivaroxaban 20 mg  
___ 04:56 PO Metoprolol Tartrate 12.5 mg  
___ 09:04 IV Furosemide 40 mg  
___ 09:04 PO/NG Metoprolol Tartrate 12.5 mg 
___ 11:30 PO/NG Metoprolol Tartrate 25 mg 
___ 15:54 IV Furosemide 40 mg 

On the floor he reported the above history. Of note, he has a 
h/o
of a-fib with RVR with h/o multiple failed cardioversions, last
in the ___. He had also been on amiodarone which was
d/c'd when he was thought to be persistently in NSR. However,
after wearing a ziopatch earlier this year it was found he was 
in
AF more frequently. He was scheduled for an ablation on ___.

REVIEW OF SYSTEMS:  
Positive per HPI.  
Cardiac review of systems is notable for absence of chest pain,
palpitations, syncope, or presyncope.  

On further review of systems, denies fevers or chills. Denies 
any
prior history of stroke, TIA, pulmonary embolism, bleeding at 
the
time of surgery, myalgias, joint pains, cough, hemoptysis, black
stools or red stools. Denies exertional buttock or calf pain. 
All
of the other review of systems were negative.  
 
Past Medical History:
1. CARDIAC RISK FACTORS  
- HTN
2. CARDIAC HISTORY  
- Coronaries: unknown
- Pump: EF 50% in ___ 
- Rhythm: AF
3. OTHER PAST MEDICAL HISTORY  
- OSA
- osteoarthritis
- BPH
- DVT (provoked, L hip surgery)
 
Social History:
___
Family History:
Father had a h/o MI in ___, died in early ___ of CAD related
disease. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
GENERAL: Well developed, obese man in NAD. Oriented x3. Mood,
affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: JVP of 10 cm; exam difficult ___ body habitus
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Irregularly irregular. Normal S1, S2. No murmurs, rubs, or
gallops. no thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis. Trace
peripheral edema.
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

DISCHARGE PHYSICAL EXAM:
=======================
24 HR Data (last updated ___ @ 1057)
    Temp: 97.3 (Tm 98.2), BP: 120/83 (89-120/61-86), HR: 131
(107-131), RR: 18 (___), O2 sat: 92% (92-94), O2 delivery: Ra,
Wt: 266.75 lb/121 kg 
 
Fluid Balance (last updated ___ @ 1039) 
  Last 8 hours  Total cumulative -100ml
    IN: Total 0ml
    OUT:  Total 100ml, Urine Amt 100ml
  Last 24 hours  Total cumulative -490ml
    IN: Total 960ml, PO Amt 960ml
    OUT:  Total 1450ml, Urine Amt 1450ml   

Weight: -1 pound since yesterday
  
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. 
NECK: JVP of 8 cm
CARDIAC: Irregularly irregular. Normal S1, S2. No murmurs, rubs,
or gallops. 
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended.  
EXTREMITIES: +Trace edema. Warm, well perfused. No clubbing,
cyanosis. 
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric. 
 
Pertinent Results:
ADMISSION LABS:
==============
___ 01:00AM BLOOD WBC-9.2 RBC-4.63 Hgb-14.2 Hct-44.8 MCV-97 
MCH-30.7 MCHC-31.7* RDW-14.4 RDWSD-50.7* Plt ___
___ 01:00AM BLOOD ___ PTT-24.2* ___
___ 01:00AM BLOOD Glucose-99 UreaN-14 Creat-0.8 Na-143 
K-4.2 Cl-108 HCO3-22 AnGap-13
___ 01:00AM BLOOD ALT-61* AST-35 AlkPhos-50 TotBili-1.3
___ 09:00AM BLOOD Calcium-8.5 Phos-4.1 Mg-2.0

___ 05:49AM BLOOD Triglyc-62 HDL-33* CHOL/HD-3.8 LDLcalc-79
___ 05:49AM BLOOD %HbA1c-5.9 eAG-123

DISCHARGE LABS:
==============

___ 05:50AM BLOOD WBC-8.8 RBC-4.28* Hgb-13.4* Hct-41.1 
MCV-96 MCH-31.3 MCHC-32.6 RDW-13.9 RDWSD-48.6* Plt ___
___ 05:50AM BLOOD ___ PTT-29.1 ___
___ 05:50AM BLOOD Glucose-108* UreaN-17 Creat-1.0 Na-141 
K-3.8 Cl-105 HCO3-25 AnGap-11
___ 06:06AM BLOOD ALT-57* AST-29
___ 05:50AM BLOOD Calcium-8.1* Phos-3.5 Mg-2.1

IMAGING:
========
TEE ___
There is no spontaneous echo contrast or thrombus in the body of 
the left atrium/left atrial appendage.
The left atrial appendage ejection velocity is normal. No 
spontaneous echo contrast or thrombus is seen
in the body of the right atrium/right atrial appendage. There is 
no evidence for an atrial septal defect by
2D/color Doppler. Overall left ventricular systolic function is 
depressed. There are no aortic arch
atheroma with no atheroma in the descending aorta to from the 
incisors. The aortic valve leaflets (3)
appear structurally normal. No masses or vegetations are seen on 
the aortic valve. No abscess is seen.
There is no aortic regurgitation. The mitral valve leaflets 
appear structurally normal with no mitral valve
prolapse. No masses or vegetations are seen on the mitral valve. 
No abscess is seen. There is physiologic
mitral regurgitation. The tricuspid valve leaflets appear 
structurally normal. No mass/vegetation are seen
on the tricuspid valve. No abscess is seen. There is mild [1+] 
tricuspid regurgitation.

TTE ___
IMPRESSION: Dilated left ventricle with severe global systolic 
dysfunction and beat-to-beat stroke
volume variability. Moderate to severe functional mitral 
regurgitation. Moderate tricuspid
regurgitation. Mild pulmonary hypertension. No left ventricular 
thrombus seen.
 
Brief Hospital Course:
============== 
BRIEF SUMMARY 
============== 
Mr. ___ is a ___ year old M followed by Dr. ___, 
with sig PMHx of persistent AF (on Rivaroxaban and metoprolol) 
s/p multiple failed cardioversions (last ___, HTN and OSA who 
presented with a new decompensated HFrEF and tachycardia-induced 
cardiomyopathy in the context of atrial Fibrillation with Rapid 
Ventricular Response now s/p successful PVI and cardioversion on 
___. The patient clinically improved with IV diuresis and 
was discharged home.

=============== 
ACTIVE ISSUES: 
===============
#Acute on Chronic HFrEF
#Tachycardia-induced cardiomyopathy 
Patient presented with symptoms (SOB, orthopnea, elevated JVP) 
and signs (elevated JVP @10 cm H20, elevated BNP at 1827 
suggestive of volume overload. No prior diagnosis of CHF, likely 
now precipitated by a-fib with RVR resulting in tachycardia 
induced cardiomyopathy in the setting of dietary indiscretions 
in last week (reports eating more salty food, seafood, more beer 
while on vacation, and noncompliance with CPAP). TSH normal. He 
was diuresed to euvolemia. A TTE was obtained which revealed 
HFrEF with EF of 28% as compared to EF 50% in ___. Other 
medications for risk stratification included: A1c was 5.9%, and 
LDL 79. Discharge weight was 264 lbs. 

#A-fib with RVR
Known a-fib with RVR with a history of multiple failed 
cardioversions. Was
on amiodarone for some time, but it was stopped due to concern 
for side effects and relatively young age while on long-term 
therapy. He was originally scheduled for pulmonary vein 
isolation in ___, but presented with decompensated CHF likely 
___ A fib with RVR (rates 160s). Initially medical management 
was pursued with max dose metoprolol (50mg q6H) without relief. 
Of note, the patient has a diltiazem allergy. The 
electrophysiology team was consulted, and they recommended 
pulmonary vein isolation, which he underwent on ___. His heart 
rate was controlled after this procedure, and he was converted 
back to normal sinus rhythm. His vital signs were monitored 
throughout this admission, and he remained stable. He remained 
on rivaroxaban 20mg daily for anticoagulation. As patient had 
missed some doses of rivaroxaban before presentation to 
hospital, he underwent a TEE before his PVI (no thrombus was 
found). ECG at discharge showed normal sinus rhythm. He was 
started on metoprolol succinate 25mg on discharge as well as 
furosemide 40mg PO. 

================ 
CHRONIC ISSUES: 
================ 
#HTN: Held home losartan iso borderline hypotension

=================
TRANSITIONAL ISSUES
=================
[ ] Please follow up BMP in 1 week (___) 
[ ] Please consider restarting losartan after discharge 
[ ] Encourage patient to take rivaroxaban with meal of at least 
500 calories (or the largest meal of the day)
[ ] Repeat TTE in ___ weeks to assess for LVEF recovery
[ ] Encourage patient to use CPAP and abstain from alcohol 
intake

- New Meds: Furosemide 40mg PO QD, Pantoprazole 40 mg PO Q24H, 
metoprolol succinate XL 25mg PO QD. 
- Stopped/Held Meds: Losartan 25mg PO QD
- Changed Meds: None 

- Incidental Findings: None
- Discharge weight: 267 lbs 
- Discharge creatinine: 0.8

CODE STATUS:FULL

> 30 MINUTES WERE SPENT ON DISCHARGE PLANNING
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 25 mg PO DAILY 
2. Rivaroxaban 20 mg PO DAILY 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
2.  Furosemide 40 mg PO DAILY Duration: 1 Dose 
RX *furosemide 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
4.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
5.  Rivaroxaban 20 mg PO DINNER 
RX *rivaroxaban [___] 20 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
6. HELD- Losartan Potassium 25 mg PO DAILY  This medication was 
held. Do not restart Losartan Potassium until you see your 
cardiologist

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
=============
Acute on Chronic Heart Failure with Reduced Ejection Fraction
Atrial Fibrillation with Rapid Ventricular Rate

Secondary Diagnosis
===============
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,  

It was a pleasure taking care of you at ___ 
___.
  
WHY WAS I ADMITTED TO THE HOSPITAL?  
 - You were admitted to the hospital because your heart was not 
pumping correctly, and this caused fluid accumulation in your 
body.
- You also had an irregular heart rhythm called atrial 
fibrillation. 
   
WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?  
- You were treated for the fluid accumulation in your body with 
IV medication called Lasix. 
- We attempted to get your heart pace under control with 
medication, but this did not work. 
- Therefore, you had a procedure called a pulmonary vein 
isolation (or ablation). You also had a cardioversion (electric 
shock). Your heart rhythm became normal.
- Your symptoms improved and you were discharged.  
  
 WHAT SHOULD I DO WHEN I GO HOME?  
- You should continue to take your medications as prescribed.  
- You should attend the appointments listed below.  
- Weigh yourself every morning, call your doctor, ___, at 
___ if your weight goes up more than 3 lbs.  
- Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night.  
- Your discharge weight: 264 lbs. You should use this as your 
baseline after you leave the hospital.  

We wish you the best!  
Your ___ Care Team  
 
Followup Instructions:
___